datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([H:12])([H:13])[H:14])([H:7])[H:8].[O:4][O:5][H:6],124.265
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12]([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:19])([H:20])[H:21])([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])[H:5],46.7771
[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]2[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]12)[H:12]>>[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]2[c:7]([H:16])[c:8]([H:17])[c:9][c:10]([H:19])[c:11]12)[H:12].[H:18],619.549984
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19])[H:5],42.4676
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([O:4][O:5])([H:11])[H:12])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([H:9])[H:10])[C:3]([O:4][O:5][H:8])([H:11])[H:12])([H:6])[H:7],82.92688
[C:0](#[C:1][H:3])[H:2].[c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]2[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]2[c:13]1[H:20]>>[C:0](=[C:1][H:3])([H:2])[c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]2[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]2[c:13]1[H:20],13.229808
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][H:11],-4.184
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:13]([C:12]([H:15])([H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:8])([H:6])[H:7],16.9452
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([H:6])[H:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]([H:6])[H:7],34.60168
[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[O:6]([O:7][H:9])[H:8]>>[C:0]([C:1](=[O:2])[H:8])([H:3])([H:4])[H:5].[O:6][O:7][H:9],164.32
[O:0][H:1].[O:2][C:3]1([H:8])[C:4]([H:9])=[C:5]([H:10])[C:6]([H:11])=[C:7]1[H:12]>>[O:0]([H:1])[H:8].[O:2]=[C:3]1[C:4]([H:9])=[C:5]([H:10])[C:6]([H:11])=[C:7]1[H:12],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[S:6])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[S:19][S:20][H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([S:6])([H:18])[H:21])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[S:19][S:20],74.30784
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[O:16]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5][c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:13][O:16],61.500616
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])([H:12])[H:13])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17](=[O:18])[H:23])[H:22])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][H:14])[H:13])[H:8])([H:5])([H:6])[H:7].[H:12][C:16]([C:15]([H:19])([H:20])[H:21])([C:17](=[O:18])[H:23])[H:22],33.13728
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[H:13])[H:12])([H:8])([H:9])[H:10].[O:4]=[C:5]([C:6]([H:17])([H:18])[H:19])[O:7][H:11],193.552
[C:0](#[C:1][C:2]([O:3][H:7])([H:5])[H:6])[H:4].[H:8]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:4].[O:3]([H:7])[H:8],66.7277
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([O:17][O:18])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:18][O:17][C:16]([C:15]([C:14]([H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25],74.0568
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:10]([H:11])([H:12])[H:13],24.731624
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:13])([H:14])[H:15])[c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:12])[H:11].[C:21](#[C:22][C:23]([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[C:23]([C:22]#[C:21][H:26])([C:24]([H:27])([H:28])[H:29])[C:25]([H:30])([H:31])[H:32])[H:12])[H:11],37.8652
